US09108983B2
Step E: 4-Bromo-3-methyl-1-(4-methylbenzenesulphonyl)-1H-pyrrole-2-carbonitrile
N-Bromosuccinimide (12.0 g, 67.4 mmol) is added all at once to a suspension of 3-methyl-1-(4-methylbenzenesulphonyl)-1H-pyrrole-2-carbonitrile (14.45 g, 55.6 mmol) in N,N-dimethylformamide (60 mL) at ambient temperature. The mixture is stirred at ambient temperature for 29 hours and is then cooled in an ice bath. Saturated aqueous sodium bisulphite solution (90 mL), water (90 mL) and ethyl acetate (250 mL) are then added. The phases are separated, and then the aqueous phase is extracted with ethyl acetate (2×70 mL). The combined organic phases are washed with 5% aqueous potassium bicarbonate solution (90 mL), water (3×90 mL), and then brine (3×90 mL). The organic phase is dried over Na2SO4, filtered and concentrated in vacuo. The crude product is purified by chromatography over silica gel using toluene and heptane as eluants to obtain the expected compound in the form of a solid.

reactant | N-Bromosuccinimide | 67.4 mmol, 12.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-methyl-1-(4-methylbenzenesulphonyl)-1H-pyrrole-2-carbonitrile | 55.6 mmol, 14.45 g | CC1=C(N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)C#N | C13H12N2O2S
reactant | sodium bisulphite | 90 mL | S([O-])(O)=O.[Na+]
reactant | water | 90 mL | O | H2O
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-3-methyl-1-(4-methylbenzenesulphonyl)-1H-pyrrole-2-carbonitrile | BrC=1C(=C(N(C1)S(=O)(=O)C1=CC=C(C=C1)C)C#N)C | C13H11BrN2O2S
